US07863332B2
1.6 g (40 mmol, 10 eq) of sodium hydroxide are added to a solution of 1.69 g (4.0 mmol, 1 eq) of ethyl 3-[3′-(3-heptyl-1-methylureido)biphenyl-4-yl]acrylate in 30 ml of 9/1 tetrahydrofuran/methanol. The reaction mixture is stirred for one hour at room temperature. The reaction is stopped by addition of 20 mL of water and 5 mL of acetic acid and then extracted with ethyl acetate. The organic phases are combined and dried over sodium sulfate. The solvents are evaporated off and the residue is then chromatographed on silica gel (70/30 heptane/ethyl acetate). The oil obtained is crystallized from Heptane/ethyl acetate. 1.29 g of 3-[3′-(3-heptyl-1-methylureido)biphenyl-4-yl]acrylic acid in the form of white crystals are obtained. (m.p.=125-126° C.) Yield=82%

reactant | sodium hydroxide | 40 mmol, 1.6 g, 10 eq | [OH-].[Na+]
reactant | ethyl 3-[3′-(3-heptyl-1-methylureido)biphenyl-4-yl]acrylate | 4.0 mmol, 1.69 g, 1 eq | C(CCCCCC)NC(N(C)C=1C=C(C=CC1)C1=CC=C(C=C1)C=CC(=O)OCC)=O | C26H34N2O3
reactant | tetrahydrofuran methanol | O1CCCC1.CO
reactant | water | 20 mL | O | H2O
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 3-[3′-(3-heptyl-1-methylureido)biphenyl-4-yl]acrylic acid | 1.29 g, Yield=82% | C(CCCCCC)NC(N(C)C=1C=C(C=CC1)C1=CC=C(C=C1)C=CC(=O)O)=O | C24H30N2O3
